US05663189
A solution of 1.12 mL of concentrated nitric acid in 20 mL of acetic arthydride is added dropwise to a stirred solution of 2.90 g of 5,8-dimethyl-1,3-benzodioxane in 70 mL of acetic anhydride at -5° C. After 15 minutes, the mixture is poured over 100 g of crushed ice and allowed to stir for 30 minutes as a white precipitate falls out of solution. The solid is filtered and taken up in ether, dried over magnesium sulfate and concentrated under reduced pressure to afford 3.1 g of 6-nitro-5,8-dimethyl-1,4-benzodioxane.

reactant | nitric acid | 1.12 mL | [N+](=O)(O)[O-] | HNO3
reactant | 5,8-dimethyl-1,3-benzodioxane | 2.90 g | CC1=CC=C(C=2OCOCC21)C | C10H12O2
reactant | acetic | 20 mL | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
solvent | acetic anhydride | 70 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 6-nitro-5,8-dimethyl-1,4-benzodioxane | 3.1 g | [N+](=O)([O-])C1=C(C2=C(OCCO2)C(=C1)C)C | C10H11NO4
